US07399759B2
1-(4-Pyridyl)-2-imidazolidinone
Sodium hydride (60% in oil, 2.4 g, 60 mmol) was added to a mixture of N-(2-chloroethyl)-N′-(4-pyridyl)urea (11.1 g, 55 mmol), tetrahydrofuran (40 ml) and DMF (40 ml) at 0° C., and the mixture was stirred at room temperature for 2 hrs. The reaction mixture was combined with methanol. The solvent was evaporated, and the residue was combined with water and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over magnesium sulfate. The residue was recrystallized from tetrahydrofuran-hexane to give the titled compound (2.4 g, 27%) as white crystals.

reactant | Sodium hydride | 60 mmol, 2.4 g | [H-].[Na+]
reactant | N-(2-chloroethyl)-N′-(4-pyridyl)urea | 55 mmol, 11.1 g | ClCCNC(=O)NC1=CC=NC=C1 | C8H10ClN3O
reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | methanol | CO | CH4O
product | 1-(4-Pyridyl)-2-imidazolidinone | 2.4 g, 27% | N1=CC=C(C=C1)N1C(NCC1)=O | C8H9N3O
